US08022062B2
6-Hydroxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine:
To a 1M solution of BBr3 (1.1 L, 1.6 equiv.), cooled at 0° C. with an ice-water bath, add 6-methoxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (187 g, 0.684 mol) in DCM (200 mL) over 1 h., while maintaining the temperature between 0° C. and 10° C. Warm the reaction mixture to ambient temperature and stir until HPLC indicates completion of the reaction (about 2 h.). Cool the solution to 0° C. and transfer it via cannula into an ice/water solution (1.2 L), thereby precipitating the product as a white solid. Add EtOAc (2 L) to dissolve most of the precipitate, separate the layers and concentrate the organic layer in vacuo. Extract the aqueous layer three times with EtOAc (2×2 L, 1×1 L). Wash the combined organic layers with water (2 L), and then brine (2 L), dry over Na2SO4, filter and concentrate in vacuo to give the desired intermediate as a light yellow solid (166.3 g, 94%). Use the product for the next step without further purification. Prepare an analytical sample by chromatography on silica gel eluting with 40% diethyl ether in hexane: mp 183.0-185.2° C. 1H NMR (300 MHz, DMSO-d6), δ 9.39 (s, 1H), 6.94-6.88 (m, 1H), 6.72-6.68 (m, 1H), 6.61-6.57 (m, 1H), 3.67-3.32 (m, 4H), 2.99-2.86 (m, 4H); 13C NMR (300 MHz, DMSO-d6), δ 154.50, 141.47, 141.18, 126.77, 126.64, 125.77, 125.33, 120.38, 120.32, 118.49, 114.67, 113.64, 113.47, 47.31, 47.27, 47.00, 46.96, 45.83, 45.49, 36.17, 34.93, 26.46, 25.18, 20.66, 14.00; MS (ES+) m/z 260 (M+H)+; Anal. Calc'd. for C12H12F3NO2: C, 55.60; H, 4.67; N, 5.40. Found: C, 55.51; H, 4.71; N, 5.29.

reactant | BBr3 | 1.1 L, 1.6 equiv. | B(Br)(Br)Br | BBr3
reactant | 6-methoxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.684 mol, 187 g | COC1=CC=CC=2CCN(CCC21)C(C(F)(F)F)=O | C13H14F3NO2
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | 6-Hydroxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 166.3 g, 94% | OC1=CC=CC=2CCN(CCC21)C(C(F)(F)F)=O | C12H12F3NO2
